US06465504B1
4.8 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin4-one and 3.5 g of 2-hydrazinobenzoic acid are boiled under reflux for 4 h in 10 ml of ethanol. The mixture is cooled, poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from ethyl acetate/hexane. After drying, 2-[3,5-bis(2-hydroxyphenyl)-[1,2,4]triazol-1-yl]benzoic acid is obtained as colorless crystals of m.p. 132-138° C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin4-one | 4.8 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | 2-hydrazinobenzoic acid | 3.5 g | N(N)C1=C(C(=O)O)C=CC=C1 | C7H8N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[3,5-bis(2-hydroxyphenyl)-[1,2,4]triazol-1-yl]benzoic acid | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)C1=C(C(=O)O)C=CC=C1 | C21H15N3O4
